2140-04-05 06:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CARDIAC CATH - At [**2140-4-4**] 01:53 PM
   Overnight Events:
   - got trazodone for sleep
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-4-5**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.9
C (96.6
   HR: 58 (56 - 73) bpm
   BP: 94/46(58) {90/42(56) - 130/79(85)} mmHg
   RR: 14 (11 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,695 mL
                                                                    250 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  1,095 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    350 mL
   Urine:
                                                                    600 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    695 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   GENERAL: WDWN 89 y/o F in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NC/AT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma noted.
   NECK: Supple with no obvious JVD noted.
   CARDIAC: 2/6 systolic ejection murmur most noted at the RUSB. No r/g
   noted. No S3 or S4 appreciated.
   LUNGS: Resp were unlabored, no accessory muscle use. CTAB anteriorly.
   ABDOMEN: Obese. Soft, NTND. No HSM or tenderness. Bowel sounds present.
   No abdominial bruits.
   EXTREMITIES: No c/c/e.
   PULSES:
   Right: DP dopplerable PT dopplerable
   Left: DP dopplerable PT dopplerable
   Labs / Radiology
   230 K/uL
   13.4 g/dL
   188 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.7 mEq/L
   16 mg/dL
   103 mEq/L
   140 mEq/L
   39.1 %
   9.3 K/uL
        [image002.jpg]
                             [**2140-4-4**]  03:29 PM
                             [**2140-4-4**]  08:42 PM
   WBC
   9.3
   Hct
   39.1
   Plt
   244
   230
   Cr
   0.7
   TropT
   0.62
   Glucose
   188
   Other labs: PT / PTT / INR:13.9/47.2/1.2, CK / CKMB /
   Troponin-T:103/14/0.62, Differential-Neuts:70.7 %, Lymph:25.5 %,
   Mono:3.2 %, Eos:0.3 %, Ca++:9.3 mg/dL, Mg++:1.5 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   89 y/o diabetic woman with HTN who presents with chest pain and EKG
   changes concerning for STEMI, now s/p cardiac cath and PCI
   .
   # ACS, STEMI: The patient developed sudden onset of SSCP this morning
   in the setting of seeing her basement flooded. ECG did show findings
   concerning for STEMI, with ST elevations in the lateral leads. CK was
   negative at the OSH, and troponin was elevated at 0.45 (troponin i).
   Repeat troponin here was 0.62. The patient is s/p cath, where she had
   stenting of the distal LAD performed. The pt had some slight
   non-specific chest discomfort on arrival to the CCU. This has resolved
   and not recurred.
   - continue ASA, plavix
   - continue metoprolol, titrating up as needed to keep HR in the 60's
   - continue high-dose statin
   - follow serial cardiac biomarkers, 3rd set due this AM
   - ECG this morning
   - TTE this AM to assess for systolic dysfunction
   - continue tele
   - PT c/s
   # HTN: Normotensive at this time.
   - restart hyzaar when able to confirm home dose
   - continue to trend BP's
   - beta blocker as above
   # DM:
   - hold oral hypoglycemics
   - cover with SSI while in house
   # Chronic Back/Knee Pain:
   - acetaminophen PRN for pain control at this time
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2140-4-4**] 01:40 PM
   20 Gauge - [**2140-4-4**] 01:40 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2140-04-06 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Overnight Events:
   -TTE shows focal severe hypokinesis to akinesis of distal third of LV,
   consistent with stress cardiomyopathy (Takotsubo) or mid/distal
   wrapaound LAD infarction. EF 35-40%.
   -spoke with Dr. [**Last Name (STitle) 6109**], who favors doing stress test, thinks there is
   good chance it will be negative
   -ordered p-MIBI
   -NPO after midnight
   -Patient reported chest pressure walking across room. Resolved
   completely with rest
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2140-4-5**] 04:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-4-6**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 64 (60 - 82) bpm
   BP: 105/54(67) {88/40(55) - 121/74(84)} mmHg
   RR: 13 (11 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,330 mL
                  PO:
                                                                  1,080 mL
                  TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,375 mL
                                                                    200 mL
   Urine:
                                                                  1,375 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -45 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   GENERAL: WDWN 89 y/o F in NAD. Alert and oriented x3. Mood, affect
   appropriate.
   HEENT: NC/AT.
   CARDIAC: 2/6 systolic ejection murmur most noted at the RUSB. No r/g
   noted. No S3 or S4 appreciated.
   LUNGS: Resp were unlabored, no accessory muscle use. CTA B.
   ABDOMEN: Obese. Soft, NTND. No HSM or tenderness. Bowel sounds
   present.
   EXTREMITIES: No c/c/e. WWP.
   Labs / Radiology
   222 K/uL
   12.4 g/dL
   117 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.1 mEq/L
   13 mg/dL
   104 mEq/L
   140 mEq/L
   36.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2140-4-4**]  03:29 PM
                             [**2140-4-4**]  08:42 PM
                             [**2140-4-5**]  06:20 AM
   WBC
   9.3
   6.5
   Hct
   39.1
   36.8
   Plt
   244
   230
   222
   Cr
   0.7
   0.7
   TropT
   0.62
   0.32
   Glucose
   188
   117
   Other labs: PT / PTT / INR:11.9/26.2/1.0, CK / CKMB /
   Troponin-T:67/14/0.32, Differential-Neuts:70.7 %, Lymph:25.5 %,
   Mono:3.2 %, Eos:0.3 %, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   89 y/o diabetic woman with HTN who presents with chest pain and EKG
   changes concerning for STEMI, now s/p cardiac cath and PCI
   .
   # ACS, STEMI: The patient developed sudden onset of SSCP this morning
   in the setting of seeing her basement flooded. ECG did show findings
   concerning for STEMI, with ST elevations in the lateral leads. CK was
   negative at the OSH, and troponin was elevated at 0.45 (troponin i).
   Troponins trending down yesterday. The patient is s/p cath, where she
   had stenting of the distal LAD performed. The pt does report some
   nonspecific chest discomfort while walking yesterday that spontaneously
   resolved. Also reports some ?anginal symptoms at home assoc. with
   stress, but is not able to give a very clear story.
   - continue ASA, plavix
   - continue metoprolol, titrating up as needed to keep HR in the 60's
   - continue high-dose statin
   - continue tele
   - PT consult
   - stress test this afternoon to assess for any other coronary ischemia
   # HTN: Normotensive at this time.
   - restart hyzaar if BP allows, will need to confirm home dose
   - continue to trend BP's
   - beta blocker as above
   # DM:
   - hold oral hypoglycemics
   - cover with SSI while in house
   # Chronic Back/Knee Pain:
   - acetaminophen PRN for pain control at this time
   ICU Care
   Nutrition: Cardiac/Heart healthy , Diabetic/Consistent Carbohydrate;
   NPO for stress test
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2140-4-4**] 01:40 PM
   20 Gauge - [**2140-4-4**] 01:40 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   Blood pressure is slightly improved but not significantly
   Creatinine is rising - the overall likelihood is intrinsic renal
   disease - coupled with volume depletion
   now two liters with slight increase in blood pressure but clinical
   evidence of volume overload
   will keep even at this point.
   evaluate bloody stool
   transfer to medical floor
   await pathology from fat pad biopsy
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Name (NI) **],MD
   on:[**2140-4-6**] 08:49 ------

2140-04-06 15:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Overnight Events:
   -TTE shows focal severe hypokinesis to akinesis of distal third of LV,
   consistent with stress cardiomyopathy (Takotsubo) or mid/distal
   wrapaound LAD infarction. EF 35-40%.
   -spoke with Dr. [**Last Name (STitle) 6109**], who favors doing stress test, thinks there is
   good chance it will be negative
   -ordered p-MIBI
   -NPO after midnight
   -Patient reported chest pressure walking across room. Resolved
   completely with rest
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2140-4-5**] 04:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-4-6**] 03:51 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 67 (60 - 82) bpm
   BP: 113/57(55) {88/42(55) - 125/74(84)} mmHg
   RR: 19 (11 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,330 mL
                  PO:
                                                                  1,080 mL
                  TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,375 mL
                                                                    450 mL
   Urine:
                                                                  1,375 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -45 mL
                                                                   -450 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   GENERAL: WDWN 89 y/o F in NAD. Alert and oriented x3. Mood, affect
   appropriate.
   HEENT: NC/AT.
   CARDIAC: 2/6 systolic ejection murmur most noted at the RUSB. No r/g
   noted. No S3 or S4 appreciated.
   LUNGS: Resp were unlabored, no accessory muscle use. CTA B.
   ABDOMEN: Obese. Soft, NTND. No HSM or tenderness. Bowel sounds
   present.
   EXTREMITIES: No c/c/e. WWP.
   Labs / Radiology
   240 K/uL
   13.8 g/dL
   160 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.1 mEq/L
   18 mg/dL
   104 mEq/L
   140 mEq/L
   39.6 %
   7.9 K/uL
        [image002.jpg]
                             [**2140-4-4**]  03:29 PM
                             [**2140-4-4**]  08:42 PM
                             [**2140-4-5**]  06:20 AM
                             [**2140-4-6**]  03:43 AM
   WBC
   9.3
   6.5
   7.9
   Hct
   39.1
   36.8
   39.6
   Plt
   244
   230
   222
   240
   Cr
   0.7
   0.7
   0.7
   TropT
   0.62
   0.32
   Glucose
   188
   117
   160
   Other labs: PT / PTT / INR:11.8/24.0/1.0, CK / CKMB /
   Troponin-T:67/14/0.32, Differential-Neuts:70.7 %, Lymph:25.5 %,
   Mono:3.2 %, Eos:0.3 %, Ca++:9.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   89 y/o diabetic woman with HTN who presents with chest pain and EKG
   changes concerning for STEMI, now s/p cardiac cath and PCI
   .
   # ACS, STEMI: The patient developed sudden onset of SSCP this morning
   in the setting of seeing her basement flooded. ECG did show findings
   concerning for STEMI, with ST elevations in the lateral leads. CK was
   negative at the OSH, and troponin was elevated at 0.45 (troponin i).
   Troponins trending down yesterday. The patient is s/p cath, where she
   had stenting of the distal LAD performed. The pt does report some
   nonspecific chest discomfort while walking yesterday that spontaneously
   resolved. Also reports some ?anginal symptoms at home assoc. with
   stress, but is not able to give a very clear story.
   - continue ASA, plavix
   - continue metoprolol, titrating up as needed to keep HR in the 60's
   - continue high-dose statin
   - continue tele
   - PT consult
   - stress test this afternoon to assess for any other coronary ischemia
   # HTN: Normotensive at this time.
   - restart hyzaar if BP allows, will need to confirm home dose
   - continue to trend BP's
   - beta blocker as above
   # DM:
   - hold oral hypoglycemics
   - cover with SSI while in house
   # Chronic Back/Knee Pain:
   - acetaminophen PRN for pain control at this time
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2140-4-4**] 01:40 PM
   20 Gauge - [**2140-4-4**] 01:40 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor